US04102881
A mixture of a solution of 0.38 part of 5-chloro-2-(2-bromo-1-ethoxyethylideneamino)benzophenone in 8 parts by volume of methylenechloride and 2 parts by volume of liquid ammonia is stirred in a sealed vessel at room temperature for 1 hour, followed by evaporation at room temperature to remove the ammonia. The resultant is shaken well with a mixture of 10 parts by volume of methylenechloride and 5 parts by volume of water. The methylene chloride layer is washed with water and dried over sodium sulfate, followed by evaporation of the solvent gives 7-chloro-2-ethoxy-5-phenyl-3H-1,4-benzodiazepine as an oily substance.

reactant | 5-chloro-2-(2-bromo-1-ethoxyethylideneamino)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N=C(CBr)OCC | C17H15BrClNO2
reactant | ammonia | N | H3N
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 7-chloro-2-ethoxy-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)OCC)C2=CC=CC=C2)C1 | C17H15ClN2O
